* HSPICE file created from DFFQNX1.ext - technology: sky130A

.option scale=5m

.subckt DFFQNX1 QN D CLK VDD GND
X0 GND x1/m1_2115_634 x2/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.7n ps=0.599m w=602 l=30
X3 x1/m1_191_783 CLK x2/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.8n ps=0.594m w=602 l=30
X4 VDD x1/m1_2115_634 x1/m1_191_783 VDD sky130_fd_pr__pfet_01v8 ad=21.6n pd=0.908m as=11.6n ps=0.458m w=400 l=30
X5 x1/m1_191_783 x1/m1_2115_634 VDD VDD sky130_fd_pr__pfet_01v8 ad=11.6n pd=0.458m as=22.4n ps=0.912m w=400 l=30
X6 VDD CLK x1/m1_191_783 VDD sky130_fd_pr__pfet_01v8 ad=0.27u pd=0.011 as=46.4n ps=1.83m w=400 l=30
X7 x1/m1_191_783 CLK VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X8 GND x1/m1_782_708 x9/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=71.6n pd=2.49m as=77.2n ps=2.61m w=602 l=30
X10 QN m1_3396_741 x9/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=1p pd=-87u as=0 ps=0 w=602 l=30
X11 VDD x1/m1_782_708 QN VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=46.4n ps=1.83m w=400 l=30
X12 QN x1/m1_782_708 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X13 VDD m1_3396_741 QN VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X14 QN m1_3396_741 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X15 GND QN x16/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=77.2n ps=2.61m w=602 l=30
X17 m1_3396_741 x1/m1_191_783 x16/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=7.16n pd=0.314m as=0 ps=0 w=602 l=30
X18 VDD QN m1_3396_741 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=46.4n ps=1.83m w=400 l=30
X19 m1_3396_741 QN VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X20 VDD x1/m1_191_783 m1_3396_741 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X21 m1_3396_741 x1/m1_191_783 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X22 GND x1/m1_191_783 x23/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=78.2n ps=2.61m w=602 l=30
X24 x1/m1_782_708 x1/m1_635_634 x25/li_393_182 GND sky130_fd_pr__nfet_01v8 ad=-7.16n pd=-0.488m as=52.7n ps=1.92m w=602 l=30
X26 x25/li_393_182 CLK x23/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=2.18n pd=0.106m as=16.2n ps=0.604m w=600 l=30
X27 VDD x1/m1_191_783 x1/m1_782_708 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=69.6n ps=2.75m w=400 l=30
X28 x1/m1_782_708 x1/m1_191_783 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X29 VDD CLK x1/m1_782_708 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X30 x1/m1_782_708 CLK VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X31 VDD x1/m1_635_634 x1/m1_782_708 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X32 x1/m1_782_708 x1/m1_635_634 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X33 GND x1/m1_782_708 x34/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=77.2n ps=2.61m w=602 l=30
X35 x1/m1_635_634 D x34/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=1p pd=-87u as=0 ps=0 w=602 l=30
X36 VDD x1/m1_782_708 x1/m1_635_634 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=46.4n ps=1.83m w=400 l=30
X37 x1/m1_635_634 x1/m1_782_708 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X38 VDD D x1/m1_635_634 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X39 x1/m1_635_634 D VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X40 GND x1/m1_635_634 x41/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=77.2n ps=2.61m w=602 l=30
X42 x1/m1_2115_634 x1/m1_191_783 x41/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=1p pd=-87u as=0 ps=0 w=602 l=30
X43 VDD x1/m1_635_634 x1/m1_2115_634 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=46.4n ps=1.83m w=400 l=30
X44 x1/m1_2115_634 x1/m1_635_634 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X45 VDD x1/m1_191_783 x1/m1_2115_634 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X46 x1/m1_2115_634 x1/m1_191_783 VDD VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
.ends

** hspice subcircuit dictionary
* x1	dffx1_pcell_0
* x2	dffx1_pcell_0/nand2x1_pcell_2/nmos_bottom_0
* x9	dffx1_pcell_0/nand2x1_pcell_3/nmos_bottom_0
* x16	dffx1_pcell_0/nand2x1_pcell_4/nmos_bottom_0
* x23	dffx1_pcell_0/nand3x1_pcell_0/nmos_bottom_0
* x25	dffx1_pcell_0/nand3x1_pcell_0
* x34	dffx1_pcell_0/nand2x1_pcell_0/nmos_bottom_0
* x41	dffx1_pcell_0/nand2x1_pcell_1/nmos_bottom_0
